US09422311B2
To a solution of 2,4,6-trichloro-1,3,5-triazine (8 g) in acetone (250 mL) was added a solution of 2,2,2-trifluoroethanol (4.77 g) and 2,4,6-Collidine (6.31 mL) in acetone (100 mL) dropwise over 20 minutes. The resulting mixture was stirred at room temperature for 16 hours. All the solvents were removed under vacuum to give a residue which was diluted with NMP (100 mL), followed by addition of tert-butyl 4-aminobenzoate (9.22 g) and DIPEA (22.73 mL). After stirring at room temperature for 16 hours, 4-(aminomethyl)phenol (5.88 g) was added. The resulting mixture was stirred for 2 days at room temperature. Then, the mixture was diluted with 300 mL of water and extracted with EtOAc (2×300 mL). The organic layers were combined, washed with brine (2×150 mL), dried over MgSO4 and concentrated. The residue was purified by silica gel column (hexane:EtOAc=3:2) to give tert-butyl 4-(4-(4-hydroxybenzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate (12 g).

reactant | 2,4,6-trichloro-1,3,5-triazine | 8 g | ClC1=NC(=NC(=N1)Cl)Cl | C3Cl3N3
reactant | 2,2,2-trifluoroethanol | 4.77 g | FC(CO)(F)F | C2H3F3O
reactant | 2,4,6-Collidine | 6.31 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | tert-butyl 4-aminobenzoate | 9.22 g | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
reactant | DIPEA | 22.73 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(aminomethyl)phenol | 5.88 g | NCC1=CC=C(C=C1)O | C7H9NO
solvent | acetone | 250 mL | CC(=O)C | C3H6O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | NMP | 100 mL | CN1CCCC1=O | C5H9NO
solvent | water | 300 mL | O | H2O
product | tert-butyl 4-(4-(4-hydroxybenzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate | 12 g | OC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OC(C)(C)C)C=C2)C=C1 | C23H24F3N5O4
